US09084794B2
c) 4-cyclopropyl-9-(1-(3-fluoro-4′-methoxy-[1,1′-biphenyl]-4-yl)ethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 9-[1-(4-bromo-2-fluorophenyl)ethyl]-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one (0.219 mmol) in 1,4-dioxane (2 mL) was treated with (4-methoxyphenyl)boronic acid (0.241 mmol), PdCl2(dppf)-CH2Cl2 adduct (10.94 μmol), and 2M aq potassium carbonate (0.656 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture was irradiated in a Biotage Initiator Microwave at 130° C. for 20 min. The resulting black mixture was diluted with water (50 mL) and extracted three times with dichloromethane. The combined organic layers were treated with Silicycle Si-thiol (20 mg), dried over sodium sulfate, filtered and concentrated in vacuo. The resulting crude material was purified by reverse phase HPLC (15-45% acetonitrile with 0.1% TFA/water with 0.1% TFA). Fractions containing the desired product were combined and the pH of the resulting mixture was adjusted to ˜10 with 30% w/v ammonium hydroxide solution. This mixture was concentrated to a minimal volume in vacuo and was then extracted three times with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the resulting solid by silica gel chromatography (3-10% methanol/dichloromethane) afforded the title compound as a white solid (46 mg, 45%). MS(ES)+ m/e 439.1 [M+H]+.

reactant | 9-[1-(4-bromo-2-fluorophenyl)ethyl]-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 0.219 mmol | BrC1=CC(=C(C=C1)C(C)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H24BrFN2O2
reactant | (4-methoxyphenyl)boronic acid | 0.241 mmol | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 0.656 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 10.94 μmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-cyclopropyl-9-(1-(3-fluoro-4′-methoxy-[1,1′-biphenyl]-4-yl)ethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 46 mg, 45% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C)C2=C(C=C(C=C2)C2=CC=C(C=C2)OC)F)=O | C26H31FN2O3
